US07309703B2
B. 1-[1-[2-(2-Piperazin-1-yl-ethylamino)-3-(4-o-tolyl-piperazin-1-yl)-propyl]-3-(4-trifluoromethyl-phenyl)-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl]-ethanone
A solution of 1-[5-acetyl-3-(4-trifluoromethyl-phenyl)-4,5,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-1-yl]-3-(4-o-tolyl-piperazin-1-yl)-propan-2-one (54 mg, 0.1 mmol) in 1,2-dichloroethane (0.5 mL) was treated with 1-(2-aminoethyl)piperazine (26 μL, 0.2 mmol) and glacial acetic acid (34 μL, 0.6 mmol) at 25° C. and stirred for 30 min. Sodium triacetoxyborohydride (63.6 mg, 0.3 mmol) was added and the reaction mixture was stirred for an additional 4 h before it was quenched with CH2Cl2 (5 mL) and sat. NaHCO3 (5 mL). The organic layer was separated, washed with H2O (2×5 mL), dried over Na2SO4, and concentrated. Preparative TLC (silica, 10% MeOH/CH2Cl2) afforded 22 mg (35%) of a light yellow film. TLC (10% MeOH/CH2Cl2): Rf=0.2. MS (electrospray): m/z 653.3 ([M+H]+, C35H47F3N8O requires 652.4). 1H NMR (CDCl3, 400 MHz, a mixture of two rotamers): 7.78-7.60 (m, 4H), 7.18-6.82 (m, 4H), 4.88-4.30 (m, 2H), 4.23-3.90 (m, 2H), 3.85-3.70 (m, 2H), 3.22-2.85 (m, 10H), 2.85-2.30 (m, 15H), 2.30 (s, 3H), 2.21 (s, 1.5H), 2.17 (s, 1.5H).

reactant | 1-[5-acetyl-3-(4-trifluoromethyl-phenyl)-4,5,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-1-yl]-3-(4-o-tolyl-piperazin-1-yl)-propan-2-one | 0.1 mmol, 54 mg | C(C)(=O)N1CC2=C(CC1)N(N=C2C2=CC=C(C=C2)C(F)(F)F)CC(CN2CCN(CC2)C2=C(C=CC=C2)C)=O | C29H32F3N5O2
reactant | 1-(2-aminoethyl)piperazine | 0.2 mmol, 26 μL | NCCN1CCNCC1 | C6H15N3
reactant | acetic acid | 0.6 mmol, 34 μL | C(C)(=O)O | C2H4O2
reactant | Sodium triacetoxyborohydride | 0.3 mmol, 63.6 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 0.5 mL | ClCCCl | C2H4Cl2
solvent | MeOH CH2Cl2 | CO.C(Cl)Cl
product | 1-[1-[2-(2-Piperazin-1-yl-ethylamino)-3-(4-o-tolyl-piperazin-1-yl)-propyl]-3-(4-trifluoromethyl-phenyl)-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl]-ethanone | N1(CCNCC1)CCNC(CN1N=C(C=2CN(CCC21)C(C)=O)C2=CC=C(C=C2)C(F)(F)F)CN2CCN(CC2)C2=C(C=CC=C2)C | C35H47F3N8O
